US04889851
A suspension of 6-hydroxy-4-methyl-2-(4-trifluoromethylphenyl)-2H-1,2,4-benzothiadiazine-3(4H)-one 1,1-dioxide (124 mg), potassium carbonate (55 mg) and 2-iodopropane (68 mg) in N,N-dimethyl formamide (1 ml) was stirred for 2 hours at 60° C. The mixture was poured into ice water. The separated solid was collected by filtration, dried, and recrystallized from ethanol to yield 2-(4-trifluoromethylphenyl)-4-methyl-6-isopropoxy-2H-1,2,4-benzothiadiazine-3(4H)-one 1,1-dioxide (78 mg).

reactant | 6-hydroxy-4-methyl-2-(4-trifluoromethylphenyl)-2H-1,2,4-benzothiadiazine-3(4H)-one 1,1-dioxide | 124 mg | OC=1C=CC2=C(N(C(N(S2(=O)=O)C2=CC=C(C=C2)C(F)(F)F)=O)C)C1 | C15H11F3N2O4S
reactant | potassium carbonate | 55 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodopropane | 68 mg | IC(C)C | C3H7I
solvent | N,N-dimethyl formamide | 1 ml | CN(C=O)C | C3H7NO
product | 2-(4-trifluoromethylphenyl)-4-methyl-6-isopropoxy-2H-1,2,4-benzothiadiazine-3(4H)-one 1,1-dioxide | 78 mg | FC(C1=CC=C(C=C1)N1S(C2=C(N(C1=O)C)C=C(C=C2)OC(C)C)(=O)=O)(F)F | C18H17F3N2O4S
